US08937078B2
Step C: Preparation of 1-(5,7-difluoro-4-oxo-3,4-dihydro-quinazolin-2-yl)-1H-pyrazole-4-carboxylic acid.
Aqueous potassium hydroxide (1 M, 1.7 mL, 1.7 mmol) was added to 1-(5,7-difluoro-4-oxo-3,4-dihydro-quinazolin-2-yl)-1H-pyrazole-4-carboxylic acid ethyl ester (0.152 g, 0.475 mmol) in THF (1.7 mL). The reaction mixture was allowed to stir at room temperature for 18 h and was then concentrated. The residue was redissolved in water (5 mL) and brought to pH 1 with 1M aqueous HCl. The resulting precipitate was collected by filtration to yield the titled compound (0.137 g, 98% yield). MS (ESI/Cl): mass calcd. for C12H6F2N4O3, 292.0; m/z found, 293.0 [M+H]+. 1H NMR (400 MHz, DMSO-d6): 13.07 (s, 2H), 8.93 (d, J=0.4 Hz, 1H), 8.28 (s, 1H), 7.44-7.27 (m, 2H).

reactant | potassium hydroxide | 1.7 mmol, 1 M, 1.7 mL | [OH-].[K+]
reactant | 1-(5,7-difluoro-4-oxo-3,4-dihydro-quinazolin-2-yl)-1H-pyrazole-4-carboxylic acid ethyl ester | 0.475 mmol, 0.152 g | C(C)OC(=O)C=1C=NN(C1)C1=NC2=CC(=CC(=C2C(N1)=O)F)F | C14H10F2N4O3
solvent | THF | 1.7 mL | C1CCOC1 | C4H8O
product | 1-(5,7-difluoro-4-oxo-3,4-dihydro-quinazolin-2-yl)-1H-pyrazole-4-carboxylic acid | 0.137 g, 98% yield | FC1=C2C(NC(=NC2=CC(=C1)F)N1N=CC(=C1)C(=O)O)=O | C12H6F2N4O3
